US05674886
EXAMPLE 55 4-[N-(4-methoxycarbonylbenzyl)-N-(4-nitrophenyl)-amino]-4H-1,2,4-triazole
Starting Compounds: 4-[N-(4-nitrophenyl)amino]-4H-1,2,4-triazole and methyl 4-bromomethylbenzoate

reactant | 4-[N-(4-nitrophenyl)amino]-4H-1,2,4-triazole | [N+](=O)([O-])C1=CC=C(C=C1)NN1C=NN=C1 | C8H7N5O2
reactant | methyl 4-bromomethylbenzoate | BrCC1=CC=C(C(=O)OC)C=C1 | C9H9BrO2
product | 4-[N-(4-methoxycarbonylbenzyl)-N-(4-nitrophenyl)-amino]-4H-1,2,4-triazole | COC(=O)C1=CC=C(CN(C2=CC=C(C=C2)[N+](=O)[O-])N2C=NN=C2)C=C1 | C17H15N5O4
